US06727264B1
N-(2-{1-[4,4-BIS(4-FLUOROPHENYL)BUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme AI using 1-[4-chloro-1-(4-fluorophenyl)butyl]-4-fluorobenzene and 2-methyl-N-[2-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 490.9 (M+H)+.

reactant | 1-[4-chloro-1-(4-fluorophenyl)butyl]-4-fluorobenzene | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | 2-methyl-N-[2-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=C(C=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(2-{1-[4,4-BIS(4-FLUOROPHENYL)BUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C1=C(C=CC=C1)NC(C(C)C)=O)C1=CC=C(C=C1)F | C31H36F2N2O
